US07855215B2
Step 12.2: 7-Hydroxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide
A solution of 38 ml BBr3 (1 M in CH2Cl2) is cooled in dry ice and acetone. Then 1.828 g (3.8 mMol) of 7-methoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide in 20 ml CH2Cl2 are added dropwise. The mixture is stirred for 90 min at −78° C., warmed up (−40 to −30° C.) and then stirred at this temperature for 3.5 h. The solution is poured into a mixture of 300 g ice, 150 ml sat. Na2CO3 solution and 200 ml EtOAc, the aqueous phase separated off and extracted twice with EtOAc. The organic layers are washed with water (2×) and brine, dried (Na2SO4) and concentrated after addition of 15 g SiO2. The resulting powder is put on top of a SiO2 chromatography column. Eluation with EtOAC/EtOH 19:1→EtOAC/EtOH/Et3N 90:10:1 gives the title compound: MS: [M+1]+=463; Anal.: C,H,N,F.

reactant | BBr3 | 1 M, 38 ml | B(Br)(Br)Br | BBr3
reactant | 7-methoxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide | 3.8 mMol, 1.828 g | FC(C=1C=C(C=CC1CN1CCN(CC1)C)NC(=O)N1C2=C(CCCC1)C=C(C=C2)OC)(F)F | C25H31F3N4O2
reactant | Na2CO3 | 150 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | dry ice | C(=O)=O | CO2
solvent | acetone | CC(=O)C | C3H6O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-Hydroxy-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid [3-trifluoromethyl-4-(4-methylpiperazin-1-ylmethyl)-phenyl]-amide | FC(C=1C=C(C=CC1CN1CCN(CC1)C)NC(=O)N1C2=C(CCCC1)C=C(C=C2)O)(F)F | C24H29F3N4O2
